US06759554B2
trans-2-(2-Chlorophenylamino)cyclohexanol
A 15 mL screw top test tube fitted with a PTFE septum cap was purged with argon before addition of CuI (5.0 mg, 0.026 mmol, 2.6 mol %), NaOH (125 mg, 3.12 mmol) and rac-2-amino-1-cyclohexanol HCl (158 mg, 1.04 mmol). 2-Chloro-1-iodobenzene (152 μL, 1.25 mmol) and isopropyl alcohol (1.0 mL) were added, via syringe, under argon. The septum cap was replaced with a solid, Teflon-lined cap and the reaction was stirred magnetically at 90° C. for 48 h. The resulting homogeneous solution was allowed to cool before dilution with 10 mL brine. The reaction mixture was transferred to a separatory funnel and extracted with methylene chloride (3×10 mL). The organics were washed with brine, dried over MgSO4 and concentrated. The crude material was purified by silica gel chromatography using hexanes/ethyl acetate (60:40). The product was obtained as a yellow oil in 91% yield (212.7 mg).

reactant | NaOH | 3.12 mmol, 125 mg | [OH-].[Na+]
reactant | rac-2-amino-1-cyclohexanol HCl | 1.04 mmol, 158 mg | Cl.NC1C(CCCC1)O
reactant | 2-Chloro-1-iodobenzene | 1.25 mmol, 152 μL | ClC1=C(C=CC=C1)I | C6H4ClI
reactant | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | CuI | 0.026 mmol, 5.0 mg | [Cu]I
product | trans-2-(2-Chlorophenylamino)cyclohexanol | 91% yield | ClC1=C(C=CC=C1)N[C@H]1[C@@H](CCCC1)O | C12H16ClNO
